US04532248
Ethyl 2-methyl-4-(2-trifluoromethylphenyl)-5-oxo-1,4-dihydro-5,7-dihydrofuro[3,4-b]pyridine-3-carboxylate
50 millimols each of ethyl 4-acetoxy-3-oxo-butyrate, ethyl 3-aminocrotonate and 2-trifluoromethylbenzaldehyde in 100 ml of ethanol were boiled under reflux for 24 hours, 2 g of potassium hydroxide were then added, and the mixture was boiled for a further hour. After the mixture had cooled, the product was precipitated with a water/sodium chloride mixture and was recrystallized from methanol.

reactant | ethyl 4-acetoxy-3-oxo-butyrate | 50 millimols | C(C)(=O)OCC(CC(=O)OCC)=O | C8H12O5
reactant | ethyl 3-aminocrotonate | N\C(=C/C(=O)OCC)\C | C6H11NO2
reactant | 2-trifluoromethylbenzaldehyde | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | potassium hydroxide | 2 g | [OH-].[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl 2-methyl-4-(2-trifluoromethylphenyl)-5-oxo-1,4-dihydro-5,7-dihydrofuro[3,4-b]pyridine-3-carboxylate | CC1=C(C(C2=C(N1)COC2=O)C2=C(C=CC=C2)C(F)(F)F)C(=O)OCC | C18H16F3NO4
